US07550451B2
2.1 g of 3,3-dimethoxy-11β-[4-(5,5-dimethyl-1,3-dioxan-2-yl)phenyl]-5α-hydroxy-estr-9-en-17-one is dissolved in 25 ml of methanol/THF (1:1, V/V) and reduced at 23° C. with 303 mg of sodium borohydride. After 45 minutes, it is stirred into water, and the aqueous phase is extracted several times with methylene chloride. The organic phase is dried and evaporated under reduced pressure. The crude product [4-(3,3-dimethoxy-5α,17β-dihydroxy-estr-9-en-11β-yl)benzaldehyde-neopentylketal] is dissolved in 25 ml of acetone, and stirred with 2 ml of water and 283 mg of p-toluenesulfonic acid at room temperature for 8 hours. Then, it is poured into water and the precipitate is suctioned off. The purification of the crude product is carried out by chromatography with a toluene/acetone gradient on silica gel. 1.1 g of 4-(17β-hydroxy-3-oxoestra-4,9-dien-11β-yl)benzaldehyde is obtained.

reactant | 3,3-dimethoxy-11β-[4-(5,5-dimethyl-1,3-dioxan-2-yl)phenyl]-5α-hydroxy-estr-9-en-17-one | 2.1 g | COC1(C[C@@]2(CC[C@H]3[C@@H]4CCC([C@@]4(C)C[C@@H](C3=C2CC1)C1=CC=C(C=C1)C1OCC(CO1)(C)C)=O)O)OC | C32H44O6
reactant | sodium borohydride | 303 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol THF | 25 ml | CO.C1CCOC1
product | 4-(17β-hydroxy-3-oxoestra-4,9-dien-11β-yl)benzaldehyde | 1.1 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CCC3=C1[C@H](C2)C2=CC=C(C=O)C=C2)=O | C25H28O3
